US07074798B2
4-[1-(2,2-Dimethylpropionyloxymethyl)-7-(2-vinylphenyl)-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester (187 mg) was dissolved in methanol (3 ml), and sodium hydride (14 mg) was added thereto. The reaction solution was stirred at room temperature overnight, then neutralized with 1 N hydrochloric acid, and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, filtered, and the solvent was removed by distillation. The residue was purified by silica gel chromatography to obtain 108 mg of 4-[3-methyl-2,6-dioxo-7-(2-vinylphenyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester from a fraction eluted with hexane-ethyl acetate (3:2). This was dissolved in trifluoroacetic acid (2 ml), and the solution was concentrated. The residue was purified by NH-silica gel to obtain 84 mg of the title compound from a fraction eluted with ethyl acetate-methanol (15:1).

reactant | 4-[1-(2,2-Dimethylpropionyloxymethyl)-7-(2-vinylphenyl)-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 187 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1C1=C(C=CC=C1)C=C)=O)COC(C(C)(C)C)=O)=O)C | C29H38N6O6
reactant | sodium hydride | 14 mg | [H-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 3 ml | CO | CH4O
product | 4-[3-methyl-2,6-dioxo-7-(2-vinylphenyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 108 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(NC(C2N1C1=C(C=CC=C1)C=C)=O)=O)C | C23H28N6O4
